US06858651B2
A solution of 11.6 g (containing 31 mmol) of crude trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid 3,4-difluoro-phenyl ester in 110 ml of 1,4-dibromobutane was treated with 3.16 g (9.3 mmol) tetrabutylammonium hydrogen sulfate and 200 ml of aqueous 50% NaOH and stirred for 2.5 days at RT. The reaction was extracted (CH2Cl2 2×). The organic phase was dried over Na2SO4, evaporated and purified by flash silica gel column (first with hexane to remove the dibromobutane and then hexane/EtOAc 1:1) to yield 4.06 g (31%) of trans-[4-(4-bromo-butoxy)-cyclohexyl]-methyl-carbamic acid 3,4-difluoro-phenyl ester, MS: 420 (M, 1Br).

reactant | trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid 3,4-difluoro-phenyl ester | 31 mmol, 11.6 g | FC=1C=C(C=CC1F)OC(N(C)[C@@H]1CC[C@H](CC1)O)=O | C14H17F2NO3
reactant | NaOH | [OH-].[Na+]
reactant | 1,4-dibromobutane | 110 ml | BrCCCCBr | C4H8Br2
catalyst | tetrabutylammonium hydrogen sulfate | 9.3 mmol, 3.16 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | trans-[4-(4-bromo-butoxy)-cyclohexyl]-methyl-carbamic acid 3,4-difluoro-phenyl ester | 4.06 g, 31% | FC=1C=C(C=CC1F)OC(N(C)[C@@H]1CC[C@H](CC1)OCCCCBr)=O | C18H24BrF2NO3
